US07632838B2
3-chloro-2-{4-[(2-chlorophenyl)sulfonyl]piperidin-1-yl}pyridine
Using the procedure from Example 7A, 4-[(2-chlorophenyl)sulfonyl]piperidine (150 mg, 0.58 mmol) was reacted with 2,3-dichloropyridine (173 mg, 1.16 mmol) to afford the title compound (110 mg), a white solid, in 51% yield.

reactant | 4-[(2-chlorophenyl)sulfonyl]piperidine | 0.58 mmol, 150 mg | ClC1=C(C=CC=C1)S(=O)(=O)C1CCNCC1 | C11H14ClNO2S
reactant | 2,3-dichloropyridine | 1.16 mmol, 173 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
product | 3-chloro-2-{4-[(2-chlorophenyl)sulfonyl]piperidin-1-yl}pyridine | 110 mg, 51% yield | ClC=1C(=NC=CC1)N1CCC(CC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C16H16Cl2N2O2S
